US08431695B2
Step 5: Preparation of 7-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
To a solution of 7-(4-amino-5-bromo-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (1.2 g, 2.7 mmol) in DMF (20 mL), 2-benzyl- was added 6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2H-indazole (1.4 g, 4.3 mmol), Pd(dppf)Cl2 (311 mg, 0.27 mmol) and 2 N Na2CO3 solution (12 mL). The mixture was degassed with N2 for 20 min. The reaction was irradiated in a microwave reactor at 150° C. for 10 min. After cooling, the mixture was partitioned between EtOAc and H2O, The organic layer was separated and dried over Na2SO4. Biotage® chromatography (50-100% EtOAc/hexane) provided the title product as off white solid, 1.1 g (71%). 1H NMR (300 MHz, DMSO-d6) δ 8.60 (s, 1 H), 8.05 (d, 2 H), 8.0 (s, 1 H), 7.90 (d, 1 H), 7.70 (s, 1 H), 7.60-7.40 (m, 7 H), 7.25 (d, 1 H), 7.20 (s, 1 H), 5.70 (s, 2 H), 4.6 (m, 2 H), 3.6 (m, 2 H), 2.80 (m, 2 H), 1.4 (m, 9 H); ES-MS m/z 572.24 [M+H]+, HPLC RT (min) 3.44.

reactant | 7-(4-amino-5-bromo-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 2.7 mmol, 1.2 g | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)C1=CC(=C2C(=NC=NN21)N)Br | C20H22BrN5O2
reactant | 6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2H-indazole | 4.3 mmol, 1.4 g | CC1(OB(OC1(C)C)C=1C=CC2=CNN=C2C1)C | C13H17BN2O2
reactant | Na2CO3 | 2 N, 12 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | 0.27 mmol, 311 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 7-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C34H33N7O2
